US07196104B2
Preparation BG: 2-(3-Methoxyphenyl)thiazole-4-carboxylic acid
To a stirred solution of the ethyl 2-(3-methoxy-phenyl)thiazole-4-carboxylate (0.23 g, 0.87 mmol) in EtOH (10 mL) was added 1N NaOH (aq) (5 mL). The resulting mixture was heated to reflux until the starting material was consumed (2 h). The mixture was cooled to RT, acidified with 1N HCl (aq) and concentrated by rotary evaporation. The residue was extracted with CH2Cl2 (3×15 mL). The extracts were combined, dried over MgSO4, filtered and concentrated by rotary evaporation to afford the title compound as an off-white solid. EI-MS m/z 236 (M+H).

reactant | ethyl 2-(3-methoxy-phenyl)thiazole-4-carboxylate | 0.87 mmol, 0.23 g | COC=1C=C(C=CC1)C=1SC=C(N1)C(=O)OCC | C13H13NO3S
reactant | NaOH | 1N, 5 mL | [OH-].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
product | 2-(3-Methoxyphenyl)thiazole-4-carboxylic acid | COC=1C=C(C=CC1)C=1SC=C(N1)C(=O)O | C11H9NO3S
